US04719047
Using the reductive amination procedure outlined in 1, 4-chloro-9-anthracenecarbaldehyde and 2-methyl-2-amino-1,3-propanediol (Aldrich) gave 2-((2-chloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride, mp 225°-226° (dec), (EtOH/Et2O), (C,H,Cl,N).

reactant | 4-chloro-9-anthracenecarbaldehyde | ClC1=CC=CC2=C(C3=CC=CC=C3C=C12)C=O | C15H9ClO
reactant | 2-methyl-2-amino-1,3-propanediol | CC(CO)(CO)N | C4H11NO2
solvent | EtOH Et2O | CCO.CCOCC
product | 2-((2-chloro-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | Cl.ClC1=CC2=C(C3=CC=CC=C3C=C2C=C1)CNC(CO)(CO)C | InChI=1S/C19H20ClNO2.ClH/c1-19(11-22,12-23)21-10-18-16-5-3-2-4-13(16)8-14-6-7-15(20)9-17(14)18;/h2-9,21-23H,10-12H2,1H3;1H
